US05025036
A mixture of 1.00 g (3.3 mmol) of 1-(6-bromohexyl)-2,3-dimethoxybenzene, 0.45 g (3.0 mmol) of 4-hydroxybenzoic acid methyl ester, 0.62 g (4.5 mmol) of potassium carbonate and 0.75 g (4.5 mmol) of potassium iodide in 25 mL of acetone was stirred at reflux for 23 hours. Workup as in Example 16 and purification by HPLC using 15% ethyl acetate-hexane gave 1.10 g (89% yield) of 4-[6-(2,3-dimethoxyphenyl)hexyloxy]benzoic acid methyl ester as an oil.

reactant | 1-(6-bromohexyl)-2,3-dimethoxybenzene | 3.3 mmol, 1.00 g | BrCCCCCCC1=C(C(=CC=C1)OC)OC | C14H21BrO2
reactant | 4-hydroxybenzoic acid methyl ester | 3.0 mmol, 0.45 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | potassium carbonate | 4.5 mmol, 0.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 4.5 mmol, 0.75 g | [I-].[K+]
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 4-[6-(2,3-dimethoxyphenyl)hexyloxy]benzoic acid methyl ester | 1.10 g, 89% yield | COC(C1=CC=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OC)OC)=O | C22H28O5
